US04324741
2.0 ml of methylene chloride, 0.05 ml (0.58 mmol) of 3-mercaptopropionic acid and 120 mg (0.59 mmol) of 2,6-di-tert-butyl-4-methylpyridine were charged in a flask, and 261 mg (0.55 mmol) of pentafluoroethylphenyliodonium trifluoromethanesulfonate was added thereto in small portions while stirring at room temperature, followed by stirring the mixture at room temperature for 20 minutes. The resulting white precipitate was filtered, subjected to column chromatography of a small amount of silica gel and, after eluting iodobenzene with hexane, the desired product was eluted with diethyl ether. Diethyl ether was distilled off from the eluate to obtain 3-pentafluoroethylthiopropionic acid as a colorless liquid. A sample of the product was purified by gas chromatography. Yield, 83%.

reactant | 3-mercaptopropionic acid | 0.58 mmol, 0.05 ml | SCCC(=O)O | C3H6O2S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 0.59 mmol, 120 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | pentafluoroethylphenyliodonium trifluoromethanesulfonate | 0.55 mmol, 261 mg | FC(S(=O)(=O)[O-])(F)F.FC(C(F)(F)F)(F)[I+]C1=CC=CC=C1
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 3-pentafluoroethylthiopropionic acid | FC(C(F)(F)F)(CCC(=S)O)F | C5H5F5OS
